US05767129
2-[4,4-Bis-(4-fluorophenyl)butyl]-1,2,3,4-tetrahydroisoquinolin-5-ol
To a solution of 2-[4,4-bis-(4-fluorophenyl)butyl]-5-hydroxyisoquinolinium bromide (4.99 g, 10.61 mmol) in 165 mL of methanol at 0° C. was added sodium borohydride (1.54 g, 40.71 mmol). The reaction mixture was stirred at 0° C. for 15 minutes, then at room temperature for 15 minutes. The mixture was concentrated on a rotavap. The residue was dissolved in ethyl acetate (200 mL) and washed with saturated ammonium chloride solution (150 mL). The organic layer was collected, and the aqueous layer was extracted with ethyl acetate (1×100 mL). The combined organic layers was dried with magnesium sulphate, filtered, and concentrated to give 1.9 g of crude product as a brown oil. The oil was chromatographed on silica gel eluted with 50% ethyl acetate in hexanes to give 2.54 g of product.

reactant | 2-[4,4-bis-(4-fluorophenyl)butyl]-5-hydroxyisoquinolinium bromide | 10.61 mmol, 4.99 g | [Br-].FC1=CC=C(C=C1)C(CCC[N+]1=CC2=CC=CC(=C2C=C1)O)C1=CC=C(C=C1)F
reactant | sodium borohydride | 40.71 mmol, 1.54 g | [BH4-].[Na+]
solvent | methanol | 165 mL | CO | CH4O
product | 2-[4,4-Bis-(4-fluorophenyl)butyl]-1,2,3,4-tetrahydroisoquinolin-5-ol | 2.54 g | FC1=CC=C(C=C1)C(CCCN1CC=2C=CC=C(C2CC1)O)C1=CC=C(C=C1)F | C25H25F2NO
